US04344948
1-[2-(3,4-Methylenedioxyphenyl)-2-hydroxyethyl]-4-[3,4-dihydro-2(1H)-quinazolinon-3-yl]-piperidine
In this example, the procedure of Example 3 is repeated except that 2.2 g of 1-(3,4-methylenedioxybenzoylmethyl)-4-[3,4-dihydro-2(1H)-quinazolinon-3-yl]-piperidine and 410 mg of sodium borohydride are used to obtain 1.69 g of a crude product. The crude product is recrystallized from hot ethanol to obtain 1.50 g of the desired product.

reactant | 1-(3,4-methylenedioxybenzoylmethyl)-4-[3,4-dihydro-2(1H)-quinazolinon-3-yl]-piperidine | 2.2 g | C1OC=2C=C(C(=O)CN3CCC(CC3)N3C(NC4=CC=CC=C4C3)=O)C=CC2O1 | C22H23N3O4
reactant | sodium borohydride | 410 mg | [BH4-].[Na+]
product | 1-[2-(3,4-Methylenedioxyphenyl)-2-hydroxyethyl]-4-[3,4-dihydro-2(1H)-quinazolinon-3-yl]-piperidine | 1.50 g | C1OC=2C=C(C=CC2O1)C(CN1CCC(CC1)N1C(NC2=CC=CC=C2C1)=O)O | C22H25N3O4
